*SPICE Netlist for circuit 567
M1 1 5 0 0 NMOS W=1u L=1u
M2 2 0 3 3 NMOS W=1u L=1u
V1 5 0 5V
R3 0 3 1k
R4 3 1 1k
R1 1 VDD 1k
R2 2 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

